US07601716B2
3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid methyl ester
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (370 mg) was reacted with 3-methoxycarbonyl phenyl boronic acid as in General Procedure 4A to give the title compound as a white solid (70% yield). M.p. 211° C., LCMS: m/z=374.17 (M+H+), 1H-NMR (CD3OD, 400 MHz) δ 3.95 (s, 3H), 4.48 (s, 2H), 5.35 (s, 2H), 7.23-7.35 (m, 2H), 7.38-7.40 (m, 2H), 7.50-7.58 (m, 2H), 7.60-7.66 (m, 2H), 7.84 (s, 1H), 7.9-8.1 (m, 2H).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 370 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 3-methoxycarbonyl phenyl boronic acid | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
product | 3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid methyl ester | 70% yield | COC(C1=CC(=CC=C1)C1=CC2=C(NCC(N2CC2=CC=CC=C2)=O)N=C1)=O | C22H19N3O3
